US05175162
The reaction and procedure are conducted in the same manner as in Example 36 using ethyl bromide in place of methyl iodide and using 9-bromo-5,6-dihydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one in place of 9-ethyl-5,6-dihydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one as used in Example 36 to give 9-bromo-2-ethyl-5,6-dihydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one as white crystals, melting at 149°-151° C.

reactant | ethyl bromide | C(C)Br | C2H5Br
reactant | 9-bromo-5,6-dihydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one | BrC1=CC2=C(SCCC=3C2=NNC(C3)=O)S1 | C10H7BrN2OS2
product | 9-bromo-2-ethyl-5,6-dihydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one | BrC1=CC2=C(SCCC=3C2=NN(C(C3)=O)CC)S1 | C12H11BrN2OS2
